US08455475B2
2-(Pyridin-4-yl)-2,9-diazaspiro[5.5]undecane dihydrochloride
Hydrogen chloride in methanol (1.25 mol/l, 15.9 ml) was added to tert-butyl 2-(pyridin-4-yl)-2,9-diazaspiro[5.5]undecane-9-carboxylate (0.66 g, 1.991 mmol) and the mixture was refluxed for 2 h. The solvent was removed in vacuo, the residue was taken up in ethanol (5 ml) and the mixture was cooled. Acetone (20 ml) was added and the mixture was stirred at 0° C. for 30 min. Diethyl ether (50 ml) was added and the precipitate was filtered out with suction, washed with diethyl ether and dried in vacuo. Yield: 0.42 g (69%)

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 2-(pyridin-4-yl)-2,9-diazaspiro[5.5]undecane-9-carboxylate | 1.991 mmol, 0.66 g | N1=CC=C(C=C1)N1CC2(CCC1)CCN(CC2)C(=O)OC(C)(C)C | C19H29N3O2
solvent | methanol | 1.25 mol/l, 15.9 ml | CO | CH4O
product | 2-(Pyridin-4-yl)-2,9-diazaspiro[5.5]undecane dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CC2(CCC1)CCNCC2 | InChI=1S/C14H21N3.2ClH/c1-4-14(5-9-16-10-6-14)12-17(11-1)13-2-7-15-8-3-13;;/h2-3,7-8,16H,1,4-6,9-12H2;2*1H
